Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / omeprazole
 
Attending: ___
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Time (and date) the patient was last known well: LKW last nigth
when she went to bed at around 10 pm (24h clock) 

___ Stroke Scale Score:1
Date:  ___
Time: 6pm
(within 6 hours of patient presentation or neurology consult) 

t-PA given: 
--- No Reason t-PA was not given or considered: IPH

 
The NIHSS was performed within 6 hours of patient presentation /
neurology consult. 
 
___ Stroke Scale score was : 1
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. ___ gaze: 0
3. Visual fields: 0
4. Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7. Limb Ataxia: 1
8. Sensory: 0
9. Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0
 
GCS Score at the Scene: 
- If unknown, GCS score at presentation to our ED: 15
 
ICH volume by ABC/2 method: 1 cc
 
ICH Score: 1
 
Pre-ICH mRS ___ social history for description): 1
 

REASON FOR CONSULTATION: IPH
 
HPI: 
The patient is a ___ year old  woman with PMH hypertension, DM,
OSA (on CPAP), persistent atrial fibrillation on apixaban, MR,
DM2 p/w IPH s/p fall.

She reports that at circa 730 am this morning she was getting 
out
of bed to go to the bathroom and fell on her back and buttocks.
While on the floor she felt like her whole body was weak and she
could not get up. She also felt like she had no control of her
left hand. She tried to get back up, but struck her head on a
piece of furniture in her bedroom. She does not think she had 
any
loss of consciousness. She had no vomiting. She eventually
reached a phone and called a friend.
EMS was called and she was brought to OSH where SBP was 185/153, 

CT-C spine  demonstrated no cervical spine fracture, and CT head
showed intra-axial bleed in the right basal ganglia with a
calculated volume of 1.4 mL and no mass-effect. There are also
changes consistent with small vessel ischemic disease with
atrophy.
She was given Kcentra. Chest x-ray demonstrated evidence of an
ill-defined right upper lobe infiltrative process medially. She
was transferred to ___ for further care. 

She currently denies any focal weakness, numbness, diplopia,
difficulty with speech or vision. No headache. No recent fevers,
illness, or unintentional weightloss. 

At baseline she is independent in her daily activities and walks
without assistance.

 
Past Medical History:
PMH:
*S/P TAHBSO                                                     
ANXIETY                                                         
DIVERTICULOSIS                                                  
DNR STATUS                                                      
GASTROESOPHAGEAL REFLUX                                          


HYPERTENSION                                                    
MITRAL REGURGITATION                                            
OBSTRUCTIVE SLEEP APNEA                                         
PPD POSITIVE                                                
DIABETES TYPE II                                                
HYPERLIPIDEMIA                                                  
DEPRESSION                                                      
OSTEOPENIA                                                      
ATRIAL FIBRILLATION                                             

Surgical History:
APPENDECTOMY                                                    

HYSTERECTOMY                                                    

CHOLECYSTECTOMY                                                 

CATARACT SURGERY                                                
both eyes                                                       

 
Social History:
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Admission Exam: 

Vitals: T:  P:  R: 16  BP:  SaO2:
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA Gastroc 
L  4+   5-  4+  5-  5  5-   4+  5    4+ 5-    5-   
R  5    ___   5  5    5   5    5  5     5    

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      0      
     R  2+    2+     2+      0        
left toe up. right toe withdrawal.

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-Coordination: No intention tremor. Dysmetria on FNF on left. 

-Gait: Deferred

=====================================================

Discharge Exam: 

General: sitting in the chair
HEENT: small bruise over L eye
Neck:  no JVD
CV: slow rate, regular rhythm, ___ SEM
Lungs:  CTA anteriorly
Abdomen:  soft NT ND 
GU:  deferred
Ext: no rash, trace pedal edema 
Skin: small ecchymosis on L forehead above eye, L elbow, L knee 
 
Neuro:  
MS- EO spont, AAO x3, good historian, no dysarthria, naming
intact  
CN- PERRL 4->2 (surgical), EOM full, no facial 
Sensory/Motor- LUE drift. LUE: ___ in wrist/finger extensors
otherwise full. LLE ___ in hamstring otherwise full. RUE/ RLE
full. Extinction to DSS in LLE
Coordination-  Mild dysmetria on FNF on left. 

 
Pertinent Results:
MRI Brain:  
IMPRESSION: 
  
1. Unchanged 1.2 x 1.1 cm focus of intraparenchymal hemorrhage 
centered in the right thalamus.  No evidence of underlying 
lesion or vascular abnormality. Associated vasogenic edema is 
mild and there is no significant mass effect or midline shift. 
2. 9 mm left centrum semiovale chronic infarct is new from ___. 
3. Mild periventricular and deep white matter FLAIR 
hyperintensities are 
nonspecific, but likely represent sequela of chronic small 
vessel ischemic 
disease. 
  

 
Brief Hospital Course:
Outpatient Providers: Ms. ___ is an ___ year old woman with PMH 
hypertension, DM, OSA on CPAP, persistent atrial fibrillation on 
apixaban s/p recent successful ablation, MR who presents with 
right thalamic intraparenchymal hemorrhage s/p fall. 

#Right Thalamic Intraparenchymal Hemorrhage
The etiology of bleed is likely secondary to transient 
variations in hypertension, possibly exacerbated by vagal 
episodes with CPAP overnight and further provoked by therapeutic 
anti-coagulation with apixaban combined with long-standing daily 
aspirin for
primary prevention.

The patient underwent MRI which did not reveal underlying 
lesion. Apixiban and aspirin were held on admission. Patient 
also had repeat head CT which showed stability of the bleed. 

We discussed with the patient that although she has had a 
hemorrhagic stroke, given her history of atrial fibrillation, 
she is also at risk for ischemic strokes in the future, so it 
will be prudent to resume anticoagulation in two weeks (___) 
if patient remains clinically stable. Patient was amenable. 

Given hemorrhage, we discussed with her cardiologist whether 
aspirin was needed in addition to apixiban. It was felt that 
monotherapy with apixiban is sufficient so aspirin was not 
resumed. 

Patient passed bedside swallow assessment so was started on 
regular diet. Patient was seen by ___ who recommended acute 
rehab.

#Atrial Fibrillation with successful electrical cardioversion 
___:
Patient was noted to be bradycardic on admission. This improved 
during her hospitalization. She was continued home Amiodarone 
and metoprolol. Apixiban was held on admission. Plan to resume 
on ___ if bleed in stable. - hold apixaban 5mg po bid

#HTN: Patient was continued on home Triamterene-HCTZ (37.5/25) 
and remained within goal.

# DMI II: Patient was placed on insulin sliding scale.
- RISS, finger sticks

#E. Coli UTI: Patient started on Bactrim on ___ for 3 day 
course. 

#OSA: Patient was continued on home CPAP settings overnight

#MSK: Patient had significant bruising on her left elbow and 
knee from fall. She underwent trauma eval with no concern for 
fracture. 

=
=
=
=
=
=
=
=
=
=
================================================================
Transitional Issues: 
[ ] resume apixiban in two weeks (___) if patient remains 
clinically stable. ensure apixiban is appropriate for renal 
function
[ ] continue Bactrim for 3 days (___)
[ ] follow blood pressure
[ ] follow blood glucose 

 AHA/ASA Core Measures for Intracerebral Hemorrhage 
 1. Dysphagia screening before any PO intake? (x) Yes - () No 
 2. DVT Prophylaxis administered? (x) Yes - () No 
 3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
 4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
 5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No   
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
2. Sertraline 75 mg PO DAILY 
3. Amiodarone 200 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Ranitidine 150 mg PO BID 
6. Apixaban 5 mg PO BID 
7. Aspirin 81 mg PO DAILY 
8. triamcinolone acetonide 55 mcg nasal DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN pain or temp > ___  
2.  Docusate Sodium 100 mg PO BID  
3.  Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin 
4.  Ranitidine 150 mg PO BID  
5.  Senna 8.6 mg PO BID:PRN Constipation  
6.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 6 Doses  
7.  Amiodarone 200 mg PO DAILY  
8.  Metoprolol Succinate XL 50 mg PO DAILY  
9.  Sertraline 75 mg PO DAILY  
10.  triamcinolone acetonide 55 mcg nasal DAILY  
11.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  
12. HELD- Apixaban 5 mg PO BID  This medication was held. Do not 
restart Apixaban until at least ___ if clinically stable

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right thalamic hemorrhage 
atrial fibrillation 
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent mostly, occasionally confused
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,  

 You were hospitalized due to symptoms of weakness resulting 
from an ACUTE HEMORRHAGIC STROKE, a condition where there is 
bleeding in the brain. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

- high blood pressure

 We are changing your medications as follows:  
- please do not resume apixiban for at least two weeks from your 
hemorrhage (___). 
- STOP aspirin
  
 Please take your other medications as prescribed.  

 Please follow up with Neurology and your primary care physician 
as listed below. 
 
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___